US04157399
2-phenyl-3-phenylamino-benzo(b)thiophene.
3.0 g of anilide of phenylthio-phenyl acetic acid (colourless needles in a mixture of benzene and petroleum ether mp 142°-143°) in 130 g of polyphosphoric acid are heated to 100° for 19 hours. The cooled reaction mixture is poured onto water, made alkaline by concentrated ammonia and extracted with methylene chloride. By drying over sodium sulphate and evaporating the extracts of methylene chloride, 1.7 g (60.0% of theory) of yellow oil are obtained which are recrystallized in ethanol: 1.5 g (45% of theory) of yellow crystals, mp 150°-151° (ethanol).

reactant | phenylthio-phenyl acetic acid | C1(=CC=CC=C1)SC(C(=O)O)C1=CC=CC=C1 | C14H12O2S
reactant | ammonia | N | H3N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-phenyl-3-phenylamino-benzo(b)thiophene | C1(=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)NC2=CC=CC=C2 | C20H15NS
